US04029814
Dimethyl 2-Oxo-3-phenylpropylphosphonate
A solution of dimethyl methylphosphonate (62 g.) in 400 ml. of tetrahydrofuran at -74° C. is treated by slow addition of 316 ml. of 1.6 M n-butyllithium in hexane, while maintaining the temperature below -62° C. A solution of phenylacetic acid, methyl ester (37.5 g.) in 100 ml. of tetrahydrofuran is added while maintaining the temperature below -60° C. The mixture is stirred at that temperature for 3 hr. and then allowed to warm to about 25° C. Acetic acid (30 g.) is added and the resulting precipitate removed by filtration. The filtrate is concentrated, taken up in diethyl ether, washed with water and brine, dried over magnesium sulfate and concentrated to the product, 38.74 g. The product is further distilled 140°-155° C./0.4 mm. to yield 19.5 g. of the title compound.

reactant | dimethyl methylphosphonate | 62 g | CP(OC)(OC)=O | C3H9O3P
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | phenylacetic acid, methyl ester | 37.5 g | C1(=CC=CC=C1)CC(=O)OC | C9H10O2
solvent | hexane | CCCCCC | C6H14
solvent | Acetic acid | 30 g | C(C)(=O)O | C2H4O2
product | Dimethyl 2-Oxo-3-phenylpropylphosphonate | O=C(CP(OC)(OC)=O)CC1=CC=CC=C1 | C11H15O4P
